US07666879B2
4-[4-(3-{4-[3-(5-tert-Butyl-isoxazol-3-yl)-ureido]-3-fluoro-phenyl}-imidazo[1,2-a]pyridin-7-yl)-benzoyl]-piperazine-1-carboxylic acid tert-butyl ester
Combine 4-(3-{4-[3-(5-tert-Butyl-isoxazol-3-yl)-ureido]-3-fluoro-phenyl}-imidazo[1,2-a]pyridin-7-yl)-benzoic acid (2.00 g, 3.89 mmol), piperazine-1-carboxylic acid tert-butyl ester (1.09 g, 5.84 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.821 g, 4.28 mmol), triethylamine (1.63 mL, 11.68 mmol), and 1-hydroxybenzotriazole (0.579 g, 4.28 mmol) in DMF (50 mL). Stir at room temperature for 14 hours. Partition between ethyl acetate and 1 N NaOH, wash with aqueous saturated sodium chloride, dry over magnesium sulfate, filter, and concentrate. Triturate the resulting solid from CH2Cl2/hexanes, filter, and dry to give off-white solid as product (1.53 g, 58%). MS (ES), m/z 683 (M+1).

reactant | 4-(3-{4-[3-(5-tert-Butyl-isoxazol-3-yl)-ureido]-3-fluoro-phenyl}-imidazo[1,2-a]pyridin-7-yl)-benzoic acid | 3.89 mmol, 2.00 g | C(C)(C)(C)C1=CC(=NO1)NC(NC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2)C2=CC=C(C(=O)O)C=C2)F)=O | C28H24FN5O4
reactant | piperazine-1-carboxylic acid tert-butyl ester | 5.84 mmol, 1.09 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.28 mmol, 0.821 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 11.68 mmol, 1.63 mL | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 4.28 mmol, 0.579 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 4-[4-(3-{4-[3-(5-tert-Butyl-isoxazol-3-yl)-ureido]-3-fluoro-phenyl}-imidazo[1,2-a]pyridin-7-yl)-benzoyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C1=CC=2N(C=C1)C(=CN2)C2=CC(=C(C=C2)NC(=O)NC2=NOC(=C2)C(C)(C)C)F)=O | C37H40FN7O5
